US08067445B2
Step 1: (2′-{[Ethyl-(2-pyrrolidin-1-yl-acetyl)-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester
(2′-{[(2-Chloro-acetyl)-ethyl-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester (0.55 mmol), pyrrolidine (0.05 mL, 0.61 mmol), potassium carbonate (0.152 g, 1.1 mmol), and sodium iodide (0.082 g, 0.55 mmol) were combined in MeCN (3 mL), and the reaction was stirred for 3 hours at room temperature. Analytical LCMS indicated that some starting material was still present, so additional potassium carbonate (0.053 g, 0.39 mmol) was added, and the reaction was stirred for 45 minutes. The mixture was diluted with EtOAc and H2O, and the aqueous layer was extracted twice with EtOAc. The combined organic layers were dried and concentrated to give the title compound.

reactant | (2′-{[(2-Chloro-acetyl)-ethyl-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester | 0.55 mmol | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(CC)C(CCl)=O)=O | C23H25ClF3NO4
reactant | pyrrolidine | 0.61 mmol, 0.05 mL | N1CCCC1 | C4H9N
reactant | potassium carbonate | 1.1 mmol, 0.152 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.55 mmol, 0.082 g | [I-].[Na+]
reactant | potassium carbonate | 0.39 mmol, 0.053 g | C([O-])([O-])=O.[K+].[K+]
solvent | MeCN | 3 mL | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
product | (2′-{[Ethyl-(2-pyrrolidin-1-yl-acetyl)-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(C(CN1CCCC1)=O)CC)=O | C27H33F3N2O4
